US05206367
5-amino-3-chloro-5,6,7,8-tetrahydroquinoline-5-carboxylic acid
3-Chlorospiro-[5,6,7,8-tetrahydroquinolin-5,4'-imidazolidine]-2',5'-dione, (20 grams, 0.0795 mol) and barium hydroxide (50 grams, 0.159 mol) in water (300 ml) were heated at reflux for 48 hours. The solution was cooled to 50° C. and ammonium carbonate (16 grams, 0.167 mol) was added in portions. After 0.5 hours, the aqueous suspension was filtered and the solids washed with warm water. The filtrate was evaporated in vacuo to a solid. This was slurried in isopropanol (200 ml) was the solvent was again evaporated. The residual solid was suspended in isopropanol (125 ml) and ether (125 ml), granulated for 1 hour, and collected by filtration. The amino acid was dried in vacuo; 13.68 grams, 75% yield. mp 213°-14.5° C. (dec.) NMR (DMSO-d6, 300 MHz) δ8.46 (d, 1), 7.88 (d, 1), 3.5 (br s, NH3), 2.80 (t, 2), 2.27 (m, 1), 2.10 (m, 1), 1.88 (m, 2).

reactant | 3-Chlorospiro-[5,6,7,8-tetrahydroquinolin-5,4'-imidazolidine]-2',5'-dione | 0.0795 mol, 20 grams | ClC=1C=NC=2CCCC3(NC(NC3=O)=O)C2C1 | C11H10ClN3O2
reactant | barium hydroxide | 0.159 mol, 50 grams | [OH-].[Ba+2].[OH-]
reactant | ammonium carbonate | 0.167 mol, 16 grams | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | water | 300 ml | O | H2O
product | 5-amino-3-chloro-5,6,7,8-tetrahydroquinoline-5-carboxylic acid | 75% yield | NC1(C=2C=C(C=NC2CCC1)Cl)C(=O)O | C10H11ClN2O2
